US07595397B2
2 g of 3-isopropyl-piperazine-2,5-dione could be suspended in anhydrous THF under nitrogen and cooled in an ice-bath. 4 equiv. of lithium aluminium hydride could be added. The reaction could be stirred at 0° C. for 0.5 h, then heated to reflux overnight. The reaction could be quenched by the subsequent addition of 1 mL/gLiAlH4 of water, 1 mL/gLiAlH4 of 5% aqueous sodium hydroxide solution and 3 mL/gLiAlH4 of water. The resulting solid could be separated by filtration through Celite and rinsed with ethyl acetate. The filtrate could be concentrated in vacuo to afford 2-isopropyl-piperazine.

reactant | 3-isopropyl-piperazine-2,5-dione | 2 g | C(C)(C)C1C(NCC(N1)=O)=O | C7H12N2O2
reactant | lithium aluminium hydride | 4 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 2-isopropyl-piperazine | C(C)(C)C1NCCNC1 | C7H16N2
